US09422319B2
tert-Butyl(dimethyl)[(2,5,7-trimethyl-1H-inden-6-yl)oxy]silane
Mixture of 2,5,7-trimethyl-1H-inden-6-ol (1.8 g, 10.3 mmol), imidazole (1.76 g, 25.8 mmol), and tert-butylchlorodimethylsilane (1.87 g, 12.4 mmol) in CH3CN (35 ml) was stirred for 16 h at room temperature, poured into 2% HCl (100 ml), extracted by pentane (4×20 ml). Combined organic fraction was washed by water, dried over MgSO4, and evaporated. The yield 2.8 g (94%).

reactant | 2,5,7-trimethyl-1H-inden-6-ol | 10.3 mmol, 1.8 g | CC=1CC2=C(C(=C(C=C2C1)C)O)C | C12H14O
reactant | imidazole | 25.8 mmol, 1.76 g | N1C=NC=C1 | C3H4N2
reactant | tert-butylchlorodimethylsilane | 12.4 mmol, 1.87 g | C(C)(C)(C)[Si](C)(C)Cl | C6H15ClSi
reactant | HCl | 100 ml | Cl | ClH
solvent | CH3CN | 35 ml | CC#N | C2H3N
product | tert-Butyl(dimethyl)[(2,5,7-trimethyl-1H-inden-6-yl)oxy]silane | C(C)(C)(C)[Si](OC1=C(C=C2C=C(CC2=C1C)C)C)(C)C | C18H28OSi
